US08791114B2
3-Chloro-5,5-dimethyl-4,5-dihydro-1H-pyrazole.Hydrochloride.
A round 50 mL round bottom flask equipped with stir bar, Vigreux column and nitrogen inlet was charged with 5,5-dimethyl-pyrazolidin-3-one.Hydrochloride (300 mg, 2.0 mmol) and POCl3 (4 mL). The mixture was heated at 90° C. for 3 h. LC-MS showed consumption of SM. The POCl3 was evaporated under reduced pressure and trace POCl3 was removed under high vacuum for 30 min. Amount obtained: 336 mg, 2.0 mmol, 100% yield. The material was used as in the next step. Step 4

reactant | 5,5-dimethyl-pyrazolidin-3-one.Hydrochloride | 2.0 mmol, 300 mg | Cl.CC1(CC(NN1)=O)C
reactant | POCl3 | 4 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 3-Chloro-5,5-dimethyl-4,5-dihydro-1H-pyrazole.Hydrochloride | 100% yield | Cl.ClC1=NNC(C1)(C)C | InChI=1S/C5H9ClN2.ClH/c1-5(2)3-4(6)7-8-5;/h8H,3H2,1-2H3;1H
